US08455658B2
Compound 32: N-[5-(2-Cyano-pyridin-4-yl)-4-methyl-thiazol-2-yl]-2,6-difluoro-benzamide
A solution of N-[5-(2-Bromo-pyridin-4-yl)-4-methyl-thiazol-2-yl]-2,6-difluoro-benzamide (100 mg, 0.24 mmol), Zn(CN)2 (43.0 mg, 0.36 mmol), and Pd(PPh3)4 (20.0 mg, 0.02 mmol) in DMF (4.0 mL) was degassed by purging with a stream of nitrogen for 10 minutes. The mixture was heated to 110° C. overnight, cooled to room temperature, diluted with CH2Cl2, washed with water, dried (Na2SO4), filtered and concentrated under reduced pressure. The residue was purified on silica gel to give the title compound (45 mg).

reactant | N-[5-(2-Bromo-pyridin-4-yl)-4-methyl-thiazol-2-yl]-2,6-difluoro-benzamide | 0.24 mmol, 100 mg | BrC1=NC=CC(=C1)C1=C(N=C(S1)NC(C1=C(C=CC=C1F)F)=O)C | C16H10BrF2N3OS
reactant | DMF | 4.0 mL | CN(C)C=O | C3H7NO
catalyst | Zn(CN)2 | 0.36 mmol, 43.0 mg | [C-]#N.[C-]#N.[Zn+2]
catalyst | Pd(PPh3)4 | 0.02 mmol, 20.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-[5-(2-Cyano-pyridin-4-yl)-4-methyl-thiazol-2-yl]-2,6-difluoro-benzamide | 45 mg | C(#N)C1=NC=CC(=C1)C1=C(N=C(S1)NC(C1=C(C=CC=C1F)F)=O)C | C17H10F2N4OS
